US08378104B2
Step D: 1-(4-{4-[7-amino-2-(thieno[3,2-d]pyrimidin-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone (Title Compound)
A portion of 7-(tributylstannanyl)thieno[3,2-d]pyrimidine (0.030 g, 0.071 mmol) was dissolved in DMF (0.8 mL), and the solution was degassed with nitrogen for 10 min. To this mixture was added 1-{4-[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone (0.017 g, 0.047 mmol), Pd(PPh3)4 (0.0066 g, 0.0057 mmol) and cesium fluoride (0.0241 g, 0.159 mmol). The mixture was heated in a microwave reactor for 30 min at 130° C. Purification by MDP and then ISCO chromatography (0 to 20% methanol:DCM) afforded 0.006 g (30%) of the title compound an off-white solid. 1H NMR (400 MHz, CD3OD): δ 9.53 (s, 1 H), 9.36 (s, 1 H), 8.94 (s, 1 H), 8.15 (s, 1 H), 8.03 (s, 1 H), 7.93 (s, 1 H), 7.91 (br. s., 1 H), 4.72 (d, J=13.1 Hz, 1 H), 4.65-4.54 (m, 2 H), 4.14 (d, J=9.6 Hz, 1 H), 2.90 (dt, J=2.8, 13.0 Hz, 1 H), 2.33-2.22 (m, 2 H), 2.20 (s, 3 H), 2.19-2.11 (m, 1 H), 2.10-1.97 (m, 1 H); MS (ESI): 460.36 [M+H]+.

reactant | 7-(tributylstannanyl)thieno[3,2-d]pyrimidine | 0.071 mmol, 0.030 g | C(CCC)[Sn](C1=CSC2=C1N=CN=C2)(CCCC)CCCC
reactant | 1-{4-[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]piperidin-1-yl}ethanone | 0.047 mmol, 0.017 g | NC=1N=CC(=C2C1OC(=C2)Cl)C=2C=NN(C2)C2CCN(CC2)C(C)=O | C17H18ClN5O2
reactant | cesium fluoride | 0.159 mmol, 0.0241 g | [F-].[Cs+]
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0057 mmol, 0.0066 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-{4-[7-amino-2-(thieno[3,2-d]pyrimidin-7-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}piperidin-1-yl)ethanone | 0.006 g, 30% | NC=1N=CC(=C2C1OC(=C2)C2=CSC1=C2N=CN=C1)C=1C=NN(C1)C1CCN(CC1)C(C)=O | C23H21N7O2S
